US08604032B2
To a mixture of 5-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (E-2) (6.24 g, 26.8 mmol, 1.0 eq) in anhydrous THF (100 mL) at 78° C. under argon, n-BuLi solution (2.5 M in THF, 23.6 mL, 59.0 mmol, 2.2 eq) is added dropwise (over 30 min). The reaction mixture is then stirred at −78° C. for 1 h and then dry ice (300 g) is added in portions under an argon atmosphere. The resulting mixture is allowed to warm to RT and then stirred at RT overnight. The reaction mixture is then diluted with H2O (200 mL) and extracted with ethyl acetate (50 mL×4). The aqueous layer is acidified with con. HCl to adjust the pH to 3-4. The precipitate is then collected by filtration, rinsed with H2O (30 mL) and dried in vacuo to afford the product, 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid (G-1).

reactant | 5-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 26.8 mmol, 6.24 g, 1.0 eq | BrC1=CNC=2N=CN=C(C21)Cl | C6H3BrClN3
reactant | n-BuLi | 59.0 mmol, 2.5 M, 23.6 mL, 2.2 eq | [Li]CCCC
reactant | dry ice | 300 g | C(=O)=O | CO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | H2O | 200 mL | O | H2O
product | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | ClC=1C2=C(N=CN1)NC=C2C(=O)O | C7H4ClN3O2
